US04119710
1-(4'-Amino-3'-bromo-5'-cyano-phenyl)-2-tert.butylamino-ethanol,
m.p. of the hydrochloride: 213°-214° C., was prepared from 4'-amino-3'-bromo-2-tert.butylamino-5'-cyano-acetophenone and sodium borohydride analogous to Example 2.

reactant | hydrochloride | Cl | ClH
reactant | 4'-amino-3'-bromo-2-tert.butylamino-5'-cyano-acetophenone | NC1=C(C=C(C=C1C#N)C(CNC(C)(C)C)=O)Br | C13H16BrN3O
reactant | sodium borohydride | [BH4-].[Na+]
product | 1-(4'-Amino-3'-bromo-5'-cyano-phenyl)-2-tert.butylamino-ethanol | NC1=C(C=C(C=C1C#N)C(CNC(C)(C)C)O)Br | C13H18BrN3O
